US05703106
N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]- alanine ethyl ester (44 mg) is treated with lithium hydroxide monohydrate (5 mg) in methanol (0.5 ml), tetrahydrofurane (0.25 ml), and water (0.25 ml) for 3 hours at room temperature. The mixture is then partitioned between water and ether, the water phase acidified with 1N hydrochloric acid, and subsequently extracted with ethyl acetate. The ethyl acetate phase is washed with brine, dried, and evaporated to give N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-alanine.

reactant | N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]- alanine ethyl ester | 44 mg | C(C)OC([C@@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)C1=CC=NO1)=O | C24H26N2O4
reactant | lithium hydroxide monohydrate | 5 mg | O.[OH-].[Li+]
reactant | water | 0.25 ml | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | tetrahydrofurane | 0.25 ml | O1CCCC1 | C4H8O
product | N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-alanine | CC=1C=C(C(=O)N([C@@H](CC2=CC=C(C=C2)C2=CC=NO2)C(=O)O)C)C=C(C1)C | C22H22N2O4
